US07129244B2
Step 2: Synthesis of 7-chloro-3-(3,4,5-trimethoxy-benzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine)
A solution of 6-chloro-N4-(3,4,5-trimethoxy-benzyl)-pyrimidine-2,4,5-triamine was treated with a cold aqueous solution of NaNO2, following the general procedure 2. HPLC RT was 5.755 min. 1HNMR (CDCl3): δ 6.66 (s, 2H), 5.55 (s, 2H), 5.42 (s, 2H), 3.83 (s, 3H), 3.80 (s, 6H).

reactant | 6-chloro-N4-(3,4,5-trimethoxy-benzyl)-pyrimidine-2,4,5-triamine | ClC1=C(C(=NC(=N1)N)NCC1=CC(=C(C(=C1)OC)OC)OC)N | C14H18ClN5O3
reactant | NaNO2 | N(=O)[O-].[Na+]
product | 7-chloro-3-(3,4,5-trimethoxy-benzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=CC(=C(C(=C2)OC)OC)OC | C14H15ClN6O3
